US07572809B2
Similar procedure as described in example 10 was used, starting from (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-cyclopropyl-1H-pyrazol-3-yl)-amine and ethanol to give (5-Cyclopropyl-1H-pyrazol-3-yl)-(1-ethoxy-6,7-dimethoxy-isoquinolin-3-yl)-amine LC-MS m/e 355(MH+).

reactant | (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-cyclopropyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C1CC1 | C17H17ClN4O2
reactant | ethanol | C(C)O | C2H6O
product | (5-Cyclopropyl-1H-pyrazol-3-yl)-(1-ethoxy-6,7-dimethoxy-isoquinolin-3-yl)-amine | C1(CC1)C1=CC(=NN1)NC=1N=C(C2=CC(=C(C=C2C1)OC)OC)OCC | C19H22N4O3
